US05641788
A mixture of 2-amino-4,5,3',4'-tetramethoxy-benzophenone (25.0 g), 1,3-dichloroacetone (11.0 g), conc. sulfuric acid (1.2 ml) and acetic acid (200 ml) was stirred at 110° C. for 4 hours. The reaction mixture was concentrated under reduced pressure. The residue was poured into water, made alkaline with 2N NaOH, and extracted with chloroform. The chloroform layer was washed with water, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (10:1, v/v) gave 3-chloro-2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (12.0 g, 38%). This compound was recrystallized from ethyl acetate-hexane to give colorless prisms, mp. 206°-207° C.

reactant | 2-amino-4,5,3',4'-tetramethoxy-benzophenone | 25.0 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | 1,3-dichloroacetone | 11.0 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 12.0 g, 38% | ClC=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CCl | C20H19Cl2NO4
